US04806145
To a stirred solution of 11.8 g (0.05 mole) of 2,4-dichloro-5-(1-methylethoxy)phenylhydrazine and 10.0 g (0.06 mole) of ethyl difluoroacetylcarbamate in 130 mL of xylene was added 2.5 g (0.02 mole) of phosphorus pentoxide. After complete addition the mixture was heated at reflux for 1.5 hours then allowed to cool to room temperature for approximately 18 hours. The reaction mixture was decanted from a dark residue in the reaction flask and washed with water. The washed mixture was extracted with a 10% aqueous sodium hydroxide solution. The basic extract was made acidic with concentrated hydrochloric acid to form an oily precipitate. This aqueous phase was decanted from the oily residue and fresh water added to wash the residue. This residue was dissolved in 160 mL of methylene chloride and filtered through a celite pad. The filtrate was dried over anhydrous magnesium sulfate and filtered. The filtrate was evaporated under reduced pressure to leave a semi-solid residue. The residue was triturated with approximately 125 mL of petroleum ether to provide 8.2 g of 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one.

reactant | 2,4-dichloro-5-(1-methylethoxy)phenylhydrazine | 0.05 mole, 11.8 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)NN | C9H12Cl2N2O
reactant | ethyl difluoroacetylcarbamate | 0.06 mole, 10.0 g | FC(C(=O)NC(OCC)=O)F | C5H7F2NO3
reactant | phosphorus pentoxide | 0.02 mole, 2.5 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | xylene | 130 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[2,4-dichloro-5-(1-methylethoxy)phenyl]-3-difluoromethyl-4,5-dihydro-1,2,4-triazol-5(1H)-one | 8.2 g | ClC1=C(C=C(C(=C1)Cl)OC(C)C)N1N=C(NC1=O)C(F)F | C12H11Cl2F2N3O2
